US03965099
To a solution of 7-trifluoromethylmercaptoacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (4.70 g, 0.01 mol) and 5-indanol (1.34 g, 0.01 mol) in tetrahydrofuran is added dicyclohexylcarbodiimide (2.06 g, 0.01 mol) and the reaction is stirred for 4 hours at room temperature. The solid urea is collected and washed with tetrahydrofuran and the filtrate is evaporated to give 5-indanyl 7-trifluoromethylmercaptoacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate.

reactant | 7-trifluoromethylmercaptoacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 0.01 mol, 4.70 g | FC(F)(F)SCC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O | C13H13F3N6O4S3
reactant | 5-indanol | 0.01 mol, 1.34 g | C1CCC2=CC(=CC=C12)O | C9H10O
reactant | dicyclohexylcarbodiimide | 0.01 mol, 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-indanyl 7-trifluoromethylmercaptoacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate | FC(F)(F)SCC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)OC=2C=C3CCCC3=CC2)C1=O | C22H21F3N6O4S3
